US06211199B1
17.4 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(phenylmethyl)-3-(2-hydroxyethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine (1.0 g, 1.95 mmol) and tetrahydrofuran (5 mL). Cool to 0° C. using a ice bath. Add a solution of tetrabutylammonium fluoride (3.90 mL, 1 M in THF, 3.90 mmol). After the addition is complete, warm to ambient temperature. After 1.5 hours, add aqueous 1 M hydrochloric acid solution (20 mL). Extract three times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give the title compound: Rf=0.27 (silica gel, 1/1 ethyl acetate/hexane).

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | 1.95 mmol, 1.0 g | COC=1C=C(CN2C(C(CC2)(CCO[Si](C)(C)C(C)(C)C)CC2=CC=CC=C2)=O)C=C(C1OC)OC | C29H43NO5Si
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | 3.90 mmol, 1 M, 3.90 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1 M, 20 mL | Cl | ClH
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(3,4,5-trimethoxybenzyl)-3-(phenylmethyl)-3-(2-hydroxyethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCO)CC2=CC=CC=C2)=O)C=C(C1OC)OC | C23H29NO5
